US07084178B2
To a solution of cis-2-aminocyclohexanecarboxylic acid amide (2.0 g, 14.0 mmol), and triethylamine (3.9 mL, 28 mmol) in dichloromethane (100 mL) was added 4-chlorobenzenesulfonyl chloride (2.95 g, 14.0 mmol). The resulting solution was stirred at room temperature for 18 h. The reaction was then diluted with dichloromethane (200 mL) and washed with H2O, 1.0 M HCl, brine, and dried over Na2SO4. Further purification by flash chromatography (silica gel, 1% to 10% MeOH/CHCl3) afforded cis-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide (2.0 g) as a white solid in 45% yield over three steps: 1H NMR (DMSO-d6) δ 7.82 (m, 2 H), 7.63 (m, 2 H), 7.56 (d, 1 H, J=7.0 Hz), 7.22 (s br, 1 H), 6.80 (s br, 1 H), 3.43 (m, 1 H), 2.37 (m,1 H), 1.72 (m, 2 H), 1.45 (m, 3 H), 1.15 (m, 3 H); MS m/e 317.05 (M+H)+.

reactant | cis-2-aminocyclohexanecarboxylic acid amide | 14.0 mmol, 2.0 g | N[C@@H]1[C@@H](CCCC1)C(=O)N | C7H14N2O
reactant | triethylamine | 28 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 14.0 mmol, 2.95 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | cis-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | 2.0 g, 45% yield | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCC1)C(=O)N | C13H17ClN2O3S
